Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]=[O:5],0.485152088311
[C:1]#[C:2][C:3]([C:4]=[C:5]([H:6])[H:7])[O:8][H:9]>>[C:1]#[C:2].[C:3](#[C:4][C:5]([H:6])[H:7])[O:8][H:9],5.17185232696
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[O:11],1.81137724981
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:3],3.76877835271
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.56987297136
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-2.80367974852
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[O:9],0.7238871623309999
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.93529406732
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],3.64190024064
[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.16986672475
[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.94356790147
[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.5335701986900006
[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7].[H:8]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[H:8],-4.98466674352
[C:6]([H:7])([H:8])([H:9])[C:10][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.49881728934
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],5.02027271737
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8],0.779517155471
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4],2.07312891182
[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-2.1607418767400004
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4],2.71455351265
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14].[H:4],1.81451529715
[O:1]=[C:2]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-6.04122428738
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:12]([H:13])[H:14],3.97361334468
[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.23593919659
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6][H:7].[H:8],4.68568754809
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.82544328729
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([C:8])([H:9])[H:10]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8])([H:9])[H:10],1.11339929117
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5],4.73583305505
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],1.96472438205
[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.01387233888
